US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide
DIPEA (0.8 mL, 4.77 mmol) was added to a suspension of 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid (800 mg, 1.59 mmol), HATU (787 mg, 2.07 mmol) and 5-amino-3-methyl-1,2,4 thiadiazole (549 mg, 4.77 mmol) in DMF (110 mL). The resulting mixture was stirred at ambient temperature for 16 hours, water (150 mL) was added and the mixture extracted with ethyl acetate. The extracts were combined, washed with brine, dried (MgSO4), filtered and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with 75% ethyl acetate in isohexane, to give the desired compound (950 mg).

reactant | DIPEA | 4.77 mmol, 0.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 1.59 mmol, 800 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)F | C26H34FNO6Si
reactant | HATU | 2.07 mmol, 787 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-amino-3-methyl-1,2,4 thiadiazole | 4.77 mmol, 549 mg | NC1=NC(=NS1)C | C3H5N3S
solvent | DMF | 110 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide | 950 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NC(=NS3)C)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1)F | C29H37FN4O5SSi
